US07405210B2
(S)-3-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-(R)-2-hydroxy-4-phenylbutyric acid methyl ester
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 18, 165 mg, 0.84 mmol) and (3S,2R)-3-amino-2-hydroxy-4-phenylbutyric acid methyl ester (Preparation 21, 175 mg, 0.84 mmol) in DMF (10 mL)was added HOBt (125 mg, 0.92 mmol), DIPEA (0.29 mL, 1.68 mmol) and EDCI (177 mg, 0.92 mmol) and the reaction stirred at rt for 72 h. The reaction solvent was removed in vacuo, and the residue partitioned between water (40 mL) and ethyl acetate (3×40 mL). The combined organic fractions were dried (MgSO4), concentrated in vacuo and the residue purified by chromatography on silica gel eluting with methanol/dichloromethane (3:97) to give the title compound as a yellow solid. δH (CD3OD): 2.97–3.12 (2H, m), 3.67 (1H, s), 4.25 (1H, d), 4.70–4.75 (1H, m), 7.08 (1H, s), 7.15–7.21 (1H, m), 7.25–7.34 (4H, m), 7.65 (1H, s), 8.55 (1H, s); m/z (ES+)=388 [M+H]+.

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 0.84 mmol, 165 mg | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | (3S,2R)-3-amino-2-hydroxy-4-phenylbutyric acid methyl ester | 0.84 mmol, 175 mg | COC([C@@H]([C@H](CC1=CC=CC=C1)N)O)=O | C11H15NO3
reactant | HOBt | 0.92 mmol, 125 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DIPEA | 1.68 mmol, 0.29 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | EDCI | 0.92 mmol, 177 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | (S)-3-[(5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carbonyl)amino]-(R)-2-hydroxy-4-phenylbutyric acid methyl ester | COC([C@@H]([C@H](CC1=CC=CC=C1)NC(=O)C1=CC=2C(=CN=C(C2)Cl)N1)O)=O | C19H18ClN3O4
